Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Rib pain s/p fall
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ a h/o HTN, HLD, and hypothyroidism who initially presented 
on ___ with left sided pain after falling backward onto the 
bumper of a car. She and her husband were visiting ___ 
around 8pm when she tripped on the sidewalk curb and fell 
directly backward onto a vehicle. She reports having chronic 
heel pain which led to her tripping. (Of note, she tripped the 
day prior and landed on her knees). Reports landing on the left 
side of her torso. She denies LOC or pre-syncopal event. No head 
strike. Her husband helped her up and they went home, where she 
tried a heating pack and ibuprofen 200mg x2 for the pain, which
was increasing and did not improve with these measures. 

Around 11pm yesterday, the pain intensified to ___ and her 
husband drove her into the ED. On arrival, her vitals were 
temperature 98.7, HR 115, RR 16, BP 139/63, and 97%RA. FAST was 
negative. Patient complained of pain in left side of chest 
radiating to back. A CT chest/abdomen was performed. She 
received
NS, oxycodone-acetaminophen, and IV dilaudid to good effect. 
Labs were unremarkable.  
 
Today, she continues to feel left sided rib pain that is worse 
with deep inspiration, cough, and torso movement, but much 
improved with IV pain medication. She also complains of new left 
infra-mammary pain in the chest wall. She is able to ambulate on 
her own.  
 
Past Medical History:
PMH: HTN, HLD, GERD, hypothyroidism, hiatal hernia, hepatic
cysts, vitamin D deficiency, nephrolithiasis s/p lithotripsy,
colonic polyps, ?plantar fasciitis  

PSH: Multiple D&C, remote appy, tonsillectomy
 
Social History:
___
Family History:
Mother had breast cancer. Father had CAD, MI  
 
Physical Exam:
Admission Physical Exam:

VS: 98.7, HR 110, BP 140/77, RR 18, 98%RA  
General: Well appearing woman laying in bed in no acute distress 


HEENT: PERRLA, EOM intact, oropharynx clear, no neck pain or
stiffness  
Heart: RRR, normal S1/S2, no m/r/g  
Lungs: CTAB limited by poor inspiratory effort  
Abdomen: Soft, non-distended, non-tender  
Extremities: Warm, well-perfused, healing superficial abrasions
over b/l knees  
MSK: TTP over L lateral and posterior chest wall, left
inframammary chest wall  
Neuro: A&Ox3, CN grossly intact, MAE  

Discharge Physical Exam:
VS: T: 98.2 PO BP: 116/80 L Lying HR: 84 RR: 14 O2: 95%Ra
GEN: A+Ox3, NAD
HEENT: atraumatic, MMM
CV: RRR
PULM: CTA b/l
CHEST: mild left chest wall tenderness with palpation.  
Symmetric chest expansion, no crepitus.
ABD: soft, non-distended, non-tender to palpation 
EXT: wwp, no edema b/l
 
Pertinent Results:
IMAGING:

___: CXR (PA&LAT):
No focal consolidations, pleural effusion, or pneumothorax 
detected.  No
displaced rib fracture identified on these lung-technique films.

___: CT Torso:
1. Acute minimally displaced fractures through the left 
posterior eleventh and twelfth ribs.  No other acute traumatic 
injury within the chest, abdomen, or pelvis.
2. 3 mm solid nodule within the right lower lobe.  For 
incidentally detected
single solid pulmonary nodule smaller than 6 mm, no CT follow-up 
is
recommended in a low-risk patient, and an optional CT in 12 
months is
recommend in a high-risk patient.
3. Fibroid uterus.

___: KNEE (AP, LAT & OBLIQUE):
Linear lucency along the medial right patella.  If the patient 
has focal
tenderness over the medial right patella, this could reflect a 
nondisplaced
patellar fracture.
 
Otherwise, No fracture or dislocation detected in the right or 
left knee.
 
Large left knee joint effusion, but no fat-fluid level 
identified.
 
Osteoarthritis in both knees, left-greater-than-right.

LABS:

___ 02:30AM   GLUCOSE-115* UREA N-29* CREAT-1.2* SODIUM-139 
POTASSIUM-4.3 CHLORIDE-100 TOTAL CO2-24 ANION GAP-15
___ 02:30AM   WBC-10.9*# RBC-4.37 HGB-13.6 HCT-40.9 MCV-94 
MCH-31.1 MCHC-33.3 RDW-13.1 RDWSD-44.4
___ 02:30AM   NEUTS-75.4* LYMPHS-12.5* MONOS-9.4 EOS-1.6 
BASOS-0.6 IM ___ AbsNeut-8.23*# AbsLymp-1.37 AbsMono-1.03* 
AbsEos-0.17 AbsBaso-0.07
___ 02:30AM   PLT COUNT-300
 
Brief Hospital Course:
Ms. ___ is a ___ a who presented to ___ w/ left chest wall 
pain s/p fall.  Imaging revealed minimally displaced fractures 
of left ribs ___.  The patient was admitted for pain control 
and for respiratory monitoring.  The patient remained 
hemodynamically stable and stable from a cardiopulmonary 
standpoint; vital signs were routinely monitored.  Early 
ambulation, incentive spirometry and pulmonary toilet were 
encouraged throughout hospitalization.  Pain was controlled with 
oxycodone and acetaminophen.  She tolerated a regular diet, 
intake and output were monitored. 

At the time of discharge, the patient was hemodynamically 
stable, ambulating independently, voiding without issue and pain 
was controlled.  A follow-up appointment was scheduled with her 
PCP.  The discharge instructions were reviewed with the patient 
with verbalized understanding. 
 
Medications on Admission:
Atorvastatin, benazepril 20mg QD, levothyroxine 25mcg QD,
lorazepam PRN, triamterene-hydrochlorothiazide QD, vitamin D,
ranitidine PRN, loratadine PRN, ASA 81mg every other day 
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID 
hold for loose stool   
3.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain - 
Moderate 
do NOT drink alcohol or drive while taking this medication  
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID:PRN constipation   
5.  Aspirin 81 mg PO EVERY OTHER DAY  
6.  Atorvastatin 10 mg PO QPM  
7.  benazepril 20 mg oral DAILY  
8.  Levothyroxine Sodium 25 mcg PO DAILY  
9.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Minimally displaced fractures of left ribs ___ 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Trauma Surgery service at ___ 
___ after a fall and were found to have 
left-sided rib fractures.  You were admitted to monitor your 
breathing and for pain control.  You are recovering well and are 
now ready to be discharged home to continue your recovery.  

Please note the following discharge instructions:

* Your injury caused left-sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).
 
 
Followup Instructions:
___